US07812028B2
b) 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(3-methoxy-prop-1-ynyl)-nicotinamide
To a mixture of 6-chloro-5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide (450 mg), 52 mg bistriphenylphosphinpalladium dichloride, 14 mg copperiodide, 146 mg triphenylphosphine and methyl propargyl ether (0.12 mL) in 10 mL DMF is added diethylamine (1.9 μL). The mixture is heated in the microwave oven for 40 min at 120° C. The reaction mixture was cooled to room temperature and partitioned between 1 N hydrochloric acid and ethyl acetate. The organic phase was purified by gradient chromatography on silica gel with heptane:ethyl acetate to yield 0.13 g of the title compound as a light yellow solid, MS (ISP) 399.1 (M+H)+.

reactant | 6-chloro-5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | 450 mg | ClC1=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1C1=CC=C(C=C1)Cl | C18H18Cl2N2O2
reactant | triphenylphosphine | 146 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl propargyl ether | 0.12 mL | C(C#C)OC | C4H6O
reactant | diethylamine | 1.9 μL | C(C)NCC | C4H11N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | copperiodide | 14 mg | [Cu](I)I
product | 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(3-methoxy-prop-1-ynyl)-nicotinamide | 0.13 g | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)C#CCOC | C22H23ClN2O3
